US04946851
3-(2-Formylphenyl)-2-propene nitrile
A solution of triphenylphosphoranylidene acetonitrile (13 g) in dry dichloromethane (20 ml) was added to a solution of ortho phthalaldehyde (5.4 g) in dry dichloromethane (20 ml), at 0°. The solution was stirred at room temperature for 1 h, then the solvent evaporated and the oil taken up with diethyl ether. The solid was filtered, washed with ether and the solution evaporated to dryness to give a yellow oil, which was eluted on a silica gel column (gradient petrol ether/diethyl ether, 1:1) to give the (E)-isomer of the title compound (0.9 g) and the (Z)-isomer of the title compound (2 g) (eluted first) as white solids which were recrystallized from petrol ether/diethyl ether (9:1).

reactant | triphenylphosphoranylidene acetonitrile | 13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC#N | C20H16NP
reactant | ortho phthalaldehyde | 5.4 g | C=1C=CC(=C(C1)C=O)C=O | C8H6O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(2-Formylphenyl)-2-propene nitrile | 0.9 g | C(=O)C1=C(C=CC=C1)C=CC#N | C10H7NO
